US05643872
A suspension of 2-[2-(2-aminophenyl)ethyl]benzoic acid hydrochloride (339 mg, 1 mmol) in aqueous sodium hydroxide (1N, 2 mL) was stirred vigorously and treated simultaneously with benzyl chloroformate (170 mg, 1 mmol) and aqueous sodium hydroxide (1N, 1 mL). The reaction mixture was stirred for 16 h, acidified with dilute hydrochloric acid and filtered. The solid was washed with water and hexane, dissolved with methylene chloride, and the organic phase was washed with water, dried with magnesium sulfate, filtered and concentrated in vacuo. The resulting solid was triturated with ether to give 2-[2-(2-(phenylmethoxy-carbonylamino)phenyl)ethyl]benzoic acid (0.2 g, 53%).

reactant | 2-[2-(2-aminophenyl)ethyl]benzoic acid hydrochloride | 1 mmol, 339 mg | Cl.NC1=C(C=CC=C1)CCC1=C(C(=O)O)C=CC=C1
reactant | benzyl chloroformate | 1 mmol, 170 mg | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1N, 2 mL | [OH-].[Na+]
solvent | sodium hydroxide | 1N, 1 mL | [OH-].[Na+]
product | 2-[2-(2-(phenylmethoxy-carbonylamino)phenyl)ethyl]benzoic acid | 0.2 g, 53% | C1(=CC=CC=C1)COC(=O)NC1=C(C=CC=C1)CCC1=C(C(=O)O)C=CC=C1 | C23H21NO4
